US07569337B2
3-[4-(2-Fluoro-ethyl)-piperazin-1 -yl]-phenol
1 g (5.61 mmol) 3-Piperazin-1-yl-phenol and 0.5 mL (1.25 eq) 1-bromo-2-fluoroethane are stirred 20 h at 60° C. in 5 mL DMF, the reaction mixture allowed to reach room temperature and evaporated, and the residue column chromatographed (silica gel, ethyl acetate/petroleum ether 9:1) to yield 600 mg (48%) of the desired product as a brown oil.

reactant | 3-Piperazin-1-yl-phenol | 5.61 mmol, 1 g | N1(CCNCC1)C=1C=C(C=CC1)O | C10H14N2O
reactant | 1-bromo-2-fluoroethane | 0.5 mL, 1.25 eq | BrCCF | C2H4BrF
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(2-Fluoro-ethyl)-piperazin-1 -yl]-phenol | 600 mg, 48% | FCCN1CCN(CC1)C=1C=C(C=CC1)O | C12H17FN2O
